US04978663
5-(1-Hydroxycyclohexyl)-1-(phenylmethyl)-2(1H)-pyridinone
A mixture of 5-(1-hydroxycyclohexyl)-2methoxy pyridine (26.3 g), benzyl bromide (21.7 g) and potassium carbonate (35 g) was heated in 500 mL of refluxing acetonitrile for 17 hours. The mixture was cooled and filtered, and the solids were washed with methanol. The filtrate was concentrated to give 39.5 g of an oil. HPLC on silica gel (elution with ethyl acetate) afforded 20.8 g of solid.

reactant | 5-(1-hydroxycyclohexyl)-2methoxy pyridine | 26.3 g | OC1(CCCCC1)C=1C=CC(=NC1)OC | C12H17NO2
reactant | benzyl bromide | 21.7 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 35 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
product | 5-(1-Hydroxycyclohexyl)-1-(phenylmethyl)-2(1H)-pyridinone | 39.5 g | OC1(CCCCC1)C=1C=CC(N(C1)CC1=CC=CC=C1)=O | C18H21NO2
